US06677368B2
Lithium hydroxide (179.6 mg, 7.5 mmol) was added to a suspension of 5-formyl-4-(3-methanesulfonyl-propyl)-2-methyl-1H-pyrrole-3-carboxylic acid ethyl ester (450 mg, 1.5 mmol) in methanol (6 mL) and water (6 mL). The mixture was heated under nitrogen in a 65° C. oil bath for 20 hours. The cooled reaction was adjusted to pH 2 using 1N HCl, the resulted precipitate was collected by vacuum filtration, washed with water and dried to give 356 mg (87%) of 5-formyl-4-(3-methanesulfonyl-propyl)-2-methyl-1H-pyrrole-3-carboxylic acid.

reactant | Lithium hydroxide | 7.5 mmol, 179.6 mg | [OH-].[Li+]
reactant | 5-formyl-4-(3-methanesulfonyl-propyl)-2-methyl-1H-pyrrole-3-carboxylic acid ethyl ester | 1.5 mmol, 450 mg | C(C)OC(=O)C1=C(NC(=C1CCCS(=O)(=O)C)C=O)C | C13H19NO5S
reactant | HCl | 1N | Cl | ClH
solvent | methanol | 6 mL | CO | CH4O
solvent | water | 6 mL | O | H2O
product | 5-formyl-4-(3-methanesulfonyl-propyl)-2-methyl-1H-pyrrole-3-carboxylic acid | 356 mg, 87% | C(=O)C1=C(C(=C(N1)C)C(=O)O)CCCS(=O)(=O)C | C11H15NO5S
